US06333401B1
Thauera aromatica (K 172) was cultured anaerobically at 30° C. with 0.5 mM phenol and 10 mM NaHCO3 as sole source of carbon and energy, as well as 2 mM NaNO3 as the terminal electron acceptor. The bacterial cells were harvested and 20 g of the bacterial cells were resuspended in 20 mnL 20 mM imidazole/HCl (pH 6.5), 10% glycerol, 0.5 mM dithionite and traces of DNase I, disrupted (French Press, 137.6 MPa) and ultracentrifuged (100 000×g). The supernatant with the soluble protein firaction contained all the 4-hydroxy-benzoate:14CO2-exchange activity (383 nmol min−1 mg−1) and phenylphosphate carboxylase activity (10 nmol min−1 mg−1). The supernatant was loaded on a DEAE Sepharose fast flow chromatography column (Amersham Pharmacia Biotech, Uppsala, Sweden). FIG. 2 shows the results of SDS-PAGE (12.5%) with fractions after chromatography of the soluble fraction of K172 (grown aerobically on phenol). A total amount of 20 μg protein was loaded per lane. Lane 1: K172 grown on 4-hydroxybenzoate/NO3−(105×g supernatant); Lane 2: K172 grown on phenol/NO3−(105×g supernatent) show that three dominant phenol-induced proteins F1, F2, and F3 were separated. F1, F2, and F3 were identified by molecular weight: F1≈60 kDa, F2≈58 kDa, F3≈67 kDa. Lane 3: pooled fractions containing F1; Lane 4: pooled fractions containing F2; Lanes 5-7: fractions 17-19; Lanes 8-10: fractions 53-55; Lane 11: proteins that did not bind to DEAE; and Lane 12: fraction 84 containing F3.

reactant | phenol | 0.5 mM | C1(=CC=CC=C1)O | C6H6O
reactant | NaHCO3 | 10 mM | C(=O)(O)[O-].[Na+]
reactant | imidazole HCl | 20 mM, pH 6.5 | N1C=NC=C1.Cl
reactant | dithionite | 0.5 mM | S(=O)([O-])S(=O)[O-]
reactant | 4-hydroxy-benzoate | OC1=CC=C(C(=O)[O-])C=C1
reactant | phenylphosphate | C1(=CC=CC=C1)OP(=O)([O-])[O-]
solvent | glycerol | OCC(O)CO | C3H8O3
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
